US06358992B1
To a mixture of methyl 1-(2-chlorobenzyl)-3-formyl-2-propylindole-6-carboxylate (263 mg), 2-methyl-2-butene (220 mg) and sodium dihydrogenphoshate (128 mg) in a mixture of tert-butanol (7 ml) and water (1.3 ml) was added sodium chlorite (219 mg) at 20° C. The reaction mixture was stirred at 40° C. for 2 hours. The reaction mixture was acidified with 1N hydrochloric acid at 0° C. and extracted with chloroform three times. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:2) to give 1-(2-chlorobenzyl)-6-methoxycarbonyl-2-propylindole-3-carboxylic acid (94 mg) as pale yellow crystals.

reactant | methyl 1-(2-chlorobenzyl)-3-formyl-2-propylindole-6-carboxylate | 263 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)C=O)CCC)C=CC=C1 | C21H20ClNO3
reactant | 2-methyl-2-butene | 220 mg | CC(C)=CC | C5H10
reactant | sodium dihydrogenphoshate | 128 mg | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 219 mg | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tert-butanol | 7 ml | C(C)(C)(C)O | C4H10O
solvent | water | 1.3 ml | O | H2O
product | 1-(2-chlorobenzyl)-6-methoxycarbonyl-2-propylindole-3-carboxylic acid | 94 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)C(=O)O)CCC)C=CC=C1 | C21H20ClNO4
